Name:  ___           Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
latex
 
Attending: ___.
 
Chief Complaint:
Fall with headstrike
 
Major Surgical or Invasive Procedure:
___ - Stage I - Neuronavigated left combined 
translabirinthe approach to skull base for resection of 
petroclival meningioma and right frontal EVD placement
___ - Diagnostic cerebral angiogram
___ - Stage II - Neuronavigated left combined 
translabirinthe approach to skull base for resection of 
petroclival meningioma
___ - PEG placed at the bedside (ACS)
___ - VPS insertion and Trach (with ACS) 
 
History of Present Illness:
Eu Critcal ___, AKA ___, is a ___ F with 
history of hypothyroidism and peripheral neuropathy who presents 
as transfer from OSH s/p fall with possible head strike. 
According to OSH records, family reported a witnessed fall in 
the bathroom today ___ with unclear headstrike, no loss of
consciousness. Patient was brought to OSH where NCHCT revealed 
severe asymmetry in the brainstem with surrounding edema 
concerning for underlying mass lesion. Neurosurgery was 
consulted for recommendations. 

Of note, patient was hypertensive to SBP 170s at OSH and was 
initiated on nicardipine gtt. 
 
Past Medical History:
Hypothyroidism, peripheral neuropathy, unsteady gait at
baseline, otherwise unknown

 
Social History:
___
Family History:
Unknown s/t mental status, no family at bedside

 
Physical Exam:
ON ADMISSION
===========
___
Gen: elderly woman, restless 
HEENT: normocephalic, nontraumtic
Neck: Hard C-collar in place
Extrem: Warm and well-perfused.

*primarily ___ speaking, able to follow simple
commands and answer some questions in ___
Neuro:
Mental status: Awake and alert, restless, follows simple 
commands
Orientation: Oriented to person, ___. Able to report 
about
her fall today but generally confused
Language: Speech fluent with good comprehension. No dysarthria 
or
paraphasic errors.

Cranial Nerves:
I: Not tested
II: Left pupil 3.5-2mm briskly reactive, right pupil 3-2mm
briskly reactive. Visual fields are full to confrontation.
III, IV, VI: Extraocular movements intact bilaterally without
nystagmus.
V, VII: Left nasal labial fold flattening
VIII: Hearing intact to voice bilaterally
IX, X: Palatal elevation symmetrical.
XI: Sternocleidomastoid and trapezius normal bilaterally.
XII: Tongue midline without fasciculations.

Motor: Normal bulk and tone bilaterally. No abnormal movements,
tremors. Strength grossly symmetric throughout, at least ___.
Unable to assess for pronator drift

Sensation: Intact to light touch

Toes downgoing bilaterally

Coordination: unable to assess

Handedness: unknown 
=
=
=
=
=
=
=
=
=
================================================================
ON DISCHARGE 
============
Exam:
___ speaking primarily / partial "conversational"
___
Opens eyes: [x]spontaneous [ ]to voice [ ]to noxious
Orientation: [x]Person [x]Place [ ]Time
Follows commands: [ ]Simple [x]Complex [ ]None
Pupils: Anisocoric, left greater than right, but briskly 
reactive
bilaterally
EOMs: [ ]Full [x]Restricted - Limited up gaze, limited left gaze
Face Symmetric: [ ]Yes [x]No - Dense left facial droop, weak 
closure of left eye, unable to raise left eyebrow, wrinkle
forehead
Tongue Midline: [ ]Yes [x]No - Left tongue deviation
Pronator Drift [ ]Yes [x]No     
Speech Fluent: [ ]Yes [x]No - slightly dysarthric d/t facial
droop 
Comprehension intact [x]Yes [ ]No

Motor: Moves bilateral upper extremities antigravity to command
with good strength, bilateral delts 4/+/5, Bi/Tri and grip ___.
Bends knees, wiggles toes bilaterally to command. 
Sensation: Intact to light touch.

Right VP Shunt Incision: 
- Clean, dry, intact
- Well healed
- Good valve recoil

 
Pertinent Results:
Please refer to OMR for pertinent imaging and lab results. 
 
Brief Hospital Course:
#Large petroclival meningioma with cerebral edema 
Patient was transferred to ___ from OSH s/p fall with 
headstrike and ___ findings showing significant asymmetry in 
brainstem concerning for underlying lesion. MRI was obtained 
which demonstrates large petroclival meningioma. Patient was 
admitted to ___ for close neurologic monitoring and further 
workup. ENT was consulted for input and audiology evaluation. 
Patient underwent audiology testing on ___ which demonstrated 
that the patient has profound hearing loss in the left ear and 
moderate hearing loss in the right ear. Due to concern of 
location of the tumor and secondary deficits in swallow, SLP was 
consulted who downgraded diet. Surgical Options were discussed 
with the family and it was decided to proceed with surgical 
tumor resection/debulking. In preparation for surgery, CTA head 
and neck was done to evaluate for compression of vertebral 
arteries. On ___, the patient underwent a Video Swallow 
pre-operatively for a baseline evaluation. Her neuro exam 
remained stable, and she was changed to floor status while 
awaiting surgical plan. On ___ she was noted to have horizontal 
gaze restriction bilaterally with generalized weakness worse on 
her lower extremities. She was started on decadron with insulin 
sliding scale and GI prophylaxis. Patient was brought to the OR 
on ___ for Stage 1 of two-part surgical series. On ___, she 
underwent neuronavigated left craniotomy combined extended 
middle fossa approach and translabrinthe approach to skull base 
with placement of right frontal EVD; this Stage 1 was primarily 
done for bone work while Stage II was planned for further tumor 
resection. She also underwent diagnostic cerebral angiogram ___ 
to evaluate the cavernous sinus and aterial supply. Both 
procedures were uncomplicated. See operative note for further 
detail. Patient remained intubated postoperatively and was 
admitted to the Neuro ICU for close monitoring. Postoperative 
NCHCT revealed adequate placement of EVD and expected 
postsurgical changes. On ___, the patient went back to the OR 
for Stage II neuronavigated left craniotomy combined extended 
middle fossa approach and translabrinthe approach to skull base 
for tumor resection. Stage II was an extensively long surgery 
but otherwise uncomplicated. Please see dedicated operative note 
for further detail. Patient remained intubated postoperatively 
and returned to the Neuro ICU for further care. An abdominal 
drain was left in place that was then discontinued on POD#2 
(___). Postop NCHCT with expected postsurgical changes. She was 
extubated on ___. Following the stage II procedure, she had a 
notable left facial and left CNVII weakness for which ENT 
evaluated her. She was put on Dexamethasone 10mg Q8hrs x 3 doses 
before her Dex was decreased back down to 4mg Q8hrs. Insulin 
sliding scale was increased for elevated blood sugars. Given the 
location of the lesion, the left facial weakness was not a 
surprising post-operative finding and no STAT imaging was 
performed. Following the resection, her EVD was kept at 10 above 
the tragus, and raised to 20 on ___ and clamped on ___. 
Patient with AMS and increased ICPs, CTH on ___ revealed 
hydrocephalus and the EVD was opened to 15 above the tragus. 
Patient with increased pain on ___ and low dose oxycodone was 
added for pain relief. CTH in AM on ___ revealed stable size of 
ventricles, residual meningioma, SAH, SDH and IVH with decreased 
size of extra axial fluid collection. EVD was clamped again on 
___ however, due to ICP sustained in ___ and need for 
trach/PEG placement, the decision was made to re-open the EVD on 
___ at 15 above the tragus. VPS placement was put on hold 
pending trach/PEG placement. PEG was placed at bedside on ___. 
On ___ patient was noted to have a hematoma at the abdominal 
fat graft site. Patient underwent an ultrasound on ___ evening 
which revealed a hematoma and a repeat ultrasound was 
recommended if hematoma did not clear clinically. Patient 
continued to be monitored closely, there were no signs of 
infection and hematoma remained stable to improved. On ___, a 
one-week wean to off of the Decadron was initiated. Patient had 
a trach and VP shunt placement on ___. Please see OMR for 
operative reports for more information. VPS was set to 1.0. 
Patient was quickly weaned to trach mask and called out to the 
NIMU. She remained neurologically stable in the NIMU. She was 
made floor status on ___. She continued to remain neurologically 
stable on the floor. Her staples from her VPS insertion were 
removed on POD 10. At the time of staple removal, the incision 
was well-approximated without any active drainage or signs of 
infection. Patient's neuro exam continued to improve through 
remainder of admission. On day of discharge, she is speaking and 
alert/oriented x 2, she is following commands and moving all 
extremities. 
 
#Afib with RVR
Patient was given IV metoprolol on ___ for HR of 150. Patient 
was placed on O2 and a CTA chest to r/o PE which was negative 
however did reveal copious amounts of secretions. Patient 
remained on PO metoprolol for rate control while in the 
hospital. She had intermittent runs of SVT, but multiple EKGs 
were with NSR. She had intermittent PVC's, but electrolytes 
continued to be stable. 

#Fever/leukocytosis
Patient became febrile with WBC to 17 on ___. Pan cultures were 
send. BAL was sent on ___ which was positive for GPCs and 
patient was started on Vancomycin. Pseudomonas found in urine on 
___ overnight, cefepime started however this was switched to 
Vancomycin as ID recommended due to likely colonization. On 
___, her Vancomycin was switched to Nafcillin for S. aureus 
found in her sputum, and completed antibiotic course of 
treatment on ___.   

#ICU delirium
Overnight ___ to ___ morning, she was mildly delirious and was 
started on Seroquel at bedtime. Her agitation worsened after dex 
so the dose was decreased to 4mg q12h and was slowly tapered 
off. On day of discharge, she had no delirium noted. 

#Dysphagia
SLP evaluated the patient for dysphagia postoperatively. The 
patient was NPO and a NGT was placed. SLP recommended 
consultation with ACS for PEG placement. ACS evaluated patient 
and agreed to PEG placement, which was done on ___. Tube 
feedings with glucerna started 24 hours after PEG placement and 
titrated to goal. On day of discharge, SLP determined that she 
could have bolus feedings. They recommended obtaining patient's 
weight three times per week. 

#?Seizure/syncope
On the evening of ___ the patient was on the commode and became 
unresponsive with LUE rhythmic twitching. A STAT NCHCT was 
stable. She was loaded with Keppra and placed on EEG. EEG was 
normal for over 24 hours and d/c'd. Her Keppra was decreased to 
500mg BID due to side effects. 

#Hypoxia, respiratory failure
On ___ she was triggered for hypoxia while sitting up with ___. 
Her sats dropped to low 80's. She was placed on NRB with 
improved sats to mid 90's.  On neurosurgical assessment she was 
not in distress, and denied CP/SOB. She was made NPO. Medicine 
was consulted for assistance with management. CXR showed 
bibasilar atelectasis. She was initially started on dual 
antibiotics which were d/c'd as the event was attributed to a 
mucous plug or acute aspiration event without pneumonia. She was 
started on duonebs. She resumed her diet and was given 1L IV 
fluids slowly due to NPO overnight and elevated BUN. Medicine 
recommended stopping duonebs and giving guafenesin and chest ___ 
therapy. Patient underwent a bronch on ___ which also revealed 
copious amounts of secretions and BAL sent. She required 
intermittent diuresis with Lasix.  On ___, her sputum was found 
to be growing out S. aureus and her antibiotics were changed 
from Vancomycin to Nafcillin for proper coverage. Patient 
remained intubated and there were ongoing discussions for trach 
and PEG placement. ACS was consulted and trach was placed on 
___. On ___, the patient self discontinued her own trach, 
but it was quickly and easily replaced at the bedside by 
Respiratory. The patient remained stable during this time 
without any desats or clinical signs of respiratory distress. On 
___, patient self discontinued her trach. She tolerated on room 
air without any signs of respiratory distress. However, ACS team 
was consulted and felt that given she had a size 8 trach in 
place it would be safer to still replace the trach at a smaller 
size. Trach was replaced with smaller size and with a red cap 
on. Patient tolerated well. She was decannulated on ___ which 
she tolerated well. On day of discharge, she is requiring no 
supplemental oxygen. 

#Left ear blockage
ENT was called on ___ as the patient was noted to have a hard, 
black, crusty substance in her left ear. ENT believes this to be 
dried blood and OR prep solution and recommended cipro drops BID 
x 10 days. 

#Blood pressure
On ___, she was borderline hypotensive. She was given 1L of LR, 
and her home amlodipine was held, which improved her systolic 
blood pressures. Her home Amlodipine 10mg daily was resumed on 
___.

#Left Shoulder Injury 
Patient had left arm weakness and c/o left arm pain after 
sustaining fall on that shoulder. ACS tertiary survey was done 
and should xrays were obtained which showed some prominence at 
the left AC joint. Ortho was consulted who recommended range of 
motion and activity as tolerated and a sling for comfort. 
Patient will follow up with orthopedics outpatient in ___ weeks. 
No further inpatient workup indicated. The orthopedics team were 
paged on ___ as the patient had remained inpatient and did not 
follow-up in their clinic as originally planned and advised the 
patient to follow-up 2 weeks after discharge.

#Right Knee Pain 
Patient with chronic right knee pain and secondary right leg 
weakness. ACS tertiary survey was done and knee Xrays were 
obtained which demonstrated chronic degenerative changes. No 
further workup indicated. 

#Right Eye Terigium with irritation 
Patient was noted to have swollen right eye with irritation and 
exudates. Optho was consulted and evaluated a Terigium in the 
right eye which was causing excessive eye irritation. Recs were 
appreciated and patient was given artificial tears and gel. 
Patient will follow up with ophthalmology after discharge for 
further outpatient workup and management. Patient was 
re-evaluated by ophtho on ___, they dilated the left pupil and 
patient was noted to have epithelial thinning and was given 
erythromycin ointment to the left eye. Ophtho re-evaluated the 
patient on ___ and recommended continuing lubricating drops for 
the left eye and taping the eye closed at night. She will plan 
to follow-up with outpatient Ophthalmology ___ weeks after 
discharge. 

#Dispo
She had a PICC line placed while hospitalized, this was removed 
on day of discharge. 
___ and OT were consulted and recommended rehab. Her case was 
escalated to complex case management for lack of insurance. 
Patient was discharged to rehab on ___.  
 
Medications on Admission:
- Glucosamine 1500 complex
- Diclofenac sodium 3% transdermal BID
- Ibuprofen 600mg TID
- Norvasc 10mg QD
- HCTZ 25mg QD
- Losartan 100mg QD
- Tylenol ___ Q6hr PRN
- MVI, levoxyl 125mcg QD
- Toprol XL 50mg QD

 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild/Fever  
2.  Albuterol Inhaler ___ PUFF IH Q4H:PRN Wheezing  
3.  Artificial Tear Ointment 1 Appl LEFT EYE QHS apply then tape 
eye shut overnight  
4.  Artificial Tears GEL 1% 2 DROP LEFT EYE Q2H durin the day 
___  
5.  Bisacodyl 10 mg PO/PR DAILY:PRN Constipation  
6.  Ciprofloxacin 0.3% Ophth Soln 2 DROP BOTH EARS TID  
7.  Famotidine 20 mg PO BID  
8.  Glycopyrrolate 1 mg PO BID  
9.  Heparin 5000 UNIT SC BID  
10.  NPH 7 Units Breakfast
NPH 7 Units Bedtime
Insulin SC Sliding Scale using REG Insulin 
11.  LevETIRAcetam Oral Solution 500 mg PO Q12H  
12.  Levothyroxine Sodium 125 mcg PO DAILY  
13.  Lidocaine 5% Patch 1 PTCH TD QAM right knww, 12h on 12h off 
 
14.  Metoprolol Tartrate 25 mg PO Q8H  
15.  Multivitamins W/minerals 1 TAB PO DAILY  
16.  Polyethylene Glycol 17 g PO DAILY  
17.  QUEtiapine Fumarate 25 mg PO QHS:PRN insomnia/agitation  
18.  Senna 8.6 mg PO BID:PRN Constipation  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Large petroclival meningioma
Respiratory failure
Left eye exposure keratopathy

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Discharge Instructions
Brain Tumor

Surgery:
- You underwent surgery to remove a brain lesion from your 
brain. 
- You had a VP shunt placed for hydrocephalus. 
- Your shunt is a ___ Strata Valve which is programmable. 
This will need to be readjusted after all MRIs or exposure to 
large magnets.  Your shunt is programmed to 1.0.
- All of your surgical staples have been removed. 
- You may shower at this time but keep your incision as dry as 
possible until fully healed.
- It is best to keep your incision open to air but it is ok to 
cover it when outside. 
- Call your surgeon if there are any signs of infection like 
redness, fever, or drainage. 

Activity:
- We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.
- You make take leisurely walks and slowly increase your 
activity at your own pace once you are symptom free at rest. 
___ try to do too much all at once.
- No driving while taking any narcotic or sedating medication. 
- If you experienced a seizure while admitted, you are NOT 
allowed to drive by law. 
- No contact sports until cleared by your neurosurgeon. You 
should avoid contact sports for 6 months. 

Medications:
- Please do NOT take any blood thinning medication (Aspirin, 
Ibuprofen, Plavix, Coumadin) until cleared by the neurosurgeon. 
- You have been discharged on Keppra (Levetiracetam). This 
medication helps to prevent seizures. Please continue this 
medication as indicated on your discharge instruction. It is 
important that you take this medication consistently and on 
time. 
- You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.

What You ___ Experience:
- You may experience headaches and incisional pain. 
- You may also experience some post-operative swelling around 
your face and eyes. This is normal after surgery and most 
noticeable on the second and third day of surgery.  You apply 
ice or a cool or warm washcloth to your eyes to help with the 
swelling. The swelling will be its worse in the morning after 
laying flat from sleeping but decrease when up. 
- You may experience soreness with chewing. This is normal from 
the surgery and will improve with time. Softer foods may be 
easier during this time. 
- Feeling more tired or restlessness is also common.
- Constipation is common. Be sure to drink plenty of fluids and 
eat a high-fiber diet. If you are taking narcotics (prescription 
pain medications), try an over-the-counter stool softener.

When to Call Your Doctor at ___ for:
- Severe pain, swelling, redness or drainage from the incision 
site. 
- Fever greater than 101.5 degrees Fahrenheit
- Nausea and/or vomiting
- Extreme sleepiness and not being able to stay awake
- Severe headaches not relieved by pain relievers
- Seizures
- Any new problems with your vision or ability to speak
- Weakness or changes in sensation in your face, arms, or leg

Call ___ and go to the nearest Emergency Room if you experience 
any of the following:
- Sudden numbness or weakness in the face, arm, or leg
- Sudden confusion or trouble speaking or understanding
- Sudden trouble walking, dizziness, or loss of balance or 
coordination
- Sudden severe headaches with no known reason
 
Followup Instructions:
___